US09163027B2
2-Methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine
A mixture of 5,7-diethyl-2-(methylsulfanyl)-[1,2,4]triazolo[1,5-a]pyrimidine (11.0 g, 49.5 mmol), sodium tungstate dihydrate (490 mg, 1.49 mmol), and glacial acetic acid (90 mL) was added to a 1 L RBF with a magnetic stirring bar. The flask was cooled to ˜10° C. using ice and water bath. A solution of 35% Hydrogen peroxide in water (12.7 mL, 148.6 mmol) was slowly added drop-wise. The mixture was stirred at room temperature for 10 minutes, then at 60° C. for 40 minutes. Progress of the reaction was monitored by analytical HPLC with UV detection at 215 nm. The starting material eluted with retention time of 4.7 min, and the product eluted with retention time of 3.8 min. The reaction was cooled to room temperature and a solution of sodium sulfite (3.0 g Na2SO3 in 20 mL water) (˜4 mL) was added to the mixture until negative to peroxide test strip, and allowed to stir at room temperature overnight. The reaction was concentrated to ˜15 mL and partitioned using ethyl acetate (300 mL) and water (30 mL). The aqueous layer was extracted with ethyl acetate (2×75 mL). The combined organic layers were washed with saturated aqueous NaCl (30 mL), dried (Na2SO4), filtered, and concentrated to afford the title compound as a white powder (12.2 g, 97% yield).

reactant | 5,7-diethyl-2-(methylsulfanyl)-[1,2,4]triazolo[1,5-a]pyrimidine | 49.5 mmol, 11.0 g | C(C)C1=NC=2N(C(=C1)CC)N=C(N2)SC | C10H14N4S
reactant | acetic acid | 90 mL | C(C)(=O)O | C2H4O2
reactant | Hydrogen peroxide | OO | H2O2
reactant | water | O | H2O
reactant | water | 148.6 mmol, 12.7 mL | O | H2O
catalyst | sodium tungstate dihydrate | 1.49 mmol, 490 mg | O.O.[O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 2-Methanesulfonyl-5,7-diethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 12.2 g, 97% yield | CS(=O)(=O)C1=NN2C(N=C(C=C2CC)CC)=N1 | C10H14N4O2S
